US07141691B2
Preparation of bis(4-methoxybenzyl)-3-(15-maleinimido-4,7,10,13-tetroxapentadecanoyl)cyclobutane-1,1-dicarboxylate (PMB-CB-4-Mal)
A solution of PMB-CB-OH (1.154 g, 2.881 mmol), 15-maleinimido-4,7,10,13-tetroxapentadecanoic acid (1.49 g, 4.32 mmol) and triethylamine (1.20 ml, 8.64 mmol) in 20 ml anhydrous dichloromethane is admixed with 2-chloro-1-methylpyridinium iodide (1.10 g, 4.32 mmol) and stirred for three hours at room temperature. It is diluted with 80 ml dichloromethane, washed each time twice with 50 ml 1 n hydrochloric acid, 50 ml water and once with 50 ml sodium chloride solution (saturated) and dried over magnesium sulfate. Subsequently the solvent is removed in a vacuum and the residue is purified by column chromatography (silica gel, ethyl acetate). 1.93 g PMB-CB-4-Mal (92% of theory) is obtained as a colourless oil.

reactant | bis(4-methoxybenzyl)-3-hydroxycyclobutane-1,1-dicarboxylate | 2.881 mmol, 1.154 g | COC1=CC=C(COC(=O)C2(CC(C2)O)C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C22H24O7
reactant | 15-maleinimido-4,7,10,13-tetroxapentadecanoic acid | 4.32 mmol, 1.49 g | C1(C=CC(N1CCOCCOCCOCCOCCC(=O)O)=O)=O | C15H23NO8
reactant | triethylamine | 8.64 mmol, 1.20 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 4.32 mmol, 1.10 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | bis(4-methoxybenzyl)-3-(15-maleinimido-4,7,10,13-tetroxapentadecanoyl)cyclobutane-1,1-dicarboxylate | COC1=CC=C(COC(=O)C2(CC(C2)C(CCOCCOCCOCCOCCN2C(C=CC2=O)=O)=O)C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C37H45NO13
